US08133909B2
(S)—N-(1-Ethyl-3-methyl-1H-indazol-5-yl)-2-hydroxy-2-phenyl-N-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-acetamide
To a solution of acetic acid (S)-{(1-ethyl-3-methyl-1H-indazol-5-yl)-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-carbamoyl}-phenyl-methyl ester (150 mg, 0.286 mmol) in tetrahydrofuran (2.0 mL) were added 1.0 mL water and 20.0 mg (0.84 mmol) lithium hydroxide monohydrate. The mixture was stirred at room temperature for 2 h. The mixture was diluted with water and extracted 3 times with ethyl acetate. The combined organic layers were dried over Na2SO4, filtered and concentrated in vacuo. The crude oil was purified with flash column chromatography on silica eluting with a gradient formed from heptane and ethylacetate to provide 89 mg (65%) of the title compound as a colourless oil. MS(m/e): 483.1 [M+H]+.

reactant | acetic acid (S)-{(1-ethyl-3-methyl-1H-indazol-5-yl)-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-carbamoyl}-phenyl-methyl ester | 0.286 mmol, 150 mg | C(C)N1N=C(C2=CC(=CC=C12)N(C(=O)[C@H](C1=CC=CC=C1)OC(C)=O)CCC=1C=NC(=CC1)C(F)(F)F)C | C28H27F3N4O3
reactant | lithium hydroxide monohydrate | 0.84 mmol, 20.0 mg | O.[OH-].[Li+]
solvent | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | water | 1.0 mL | O | H2O
product | (S)—N-(1-Ethyl-3-methyl-1H-indazol-5-yl)-2-hydroxy-2-phenyl-N-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-acetamide | 89 mg, 65% | C(C)N1N=C(C2=CC(=CC=C12)N(C([C@H](C1=CC=CC=C1)O)=O)CCC=1C=NC(=CC1)C(F)(F)F)C | C26H25F3N4O2
